US05780496
45a) Preparation of 2-ethyl-5-(4-methylphenylsulfonylamino) indole
The above compound could be synthesized by treating 5-amino-2-ethylindole with p-toluenesulfonyl chloride in the presence of triethylamine.

reactant | 5-amino-2-ethylindole | NC=1C=C2C=C(NC2=CC1)CC | C10H12N2
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-ethyl-5-(4-methylphenylsulfonylamino) indole | C(C)C=1NC2=CC=C(C=C2C1)NS(=O)(=O)C1=CC=C(C=C1)C | C17H18N2O2S
